US07514470B2
(N-[4-Cyano-3-(trifluoromethyl)phenyl]-N-(2,2,2-trifluoroethyl)alanine
To a solution of methyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2,2,2-trifluoroethyl)alaninate (0.034 g, 0.11 mmol) in THF:methanol (1:1; 3 mL) was added 1N NaOH (1.1 ml, 1.1 mmol). The solution was heated at 60° C. for 30 min. Upon cooling, the solution was treated with 1N HCl (5 mL) and partitioned between ethyl acetate and saturated brine. The organic phase was washed with brine, dried (Na2SO4), and concentrated in vacuo to give 0.031 g (100% yield) of the desired product as a white solid: 1H NMR (400 MHz, CDCl3) δ 7.69 (d, J=8.8 Hz, 1H), 7.13 (d, J=2.7 Hz, 1H), 6.98 (dd, J=8.8, 2.7 Hz, 1H), 4.55 (q, J=7.2 Hz, 1H), 4.17-4.01 (m, 2H), 1.69 (d, J=7.2 Hz, 3H).

reactant | methyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2,2,2-trifluoroethyl)alaninate | 0.11 mmol, 0.034 g | C(#N)C1=C(C=C(C=C1)N([C@@H](C)C(=O)OC)CC(F)(F)F)C(F)(F)F | C14H12F6N2O2
reactant | NaOH | 1.1 mmol, 1N, 1.1 ml | [OH-].[Na+]
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | THF methanol | 3 mL | C1CCOC1.CO
product | N-[4-Cyano-3-(trifluoromethyl)phenyl]-N-(2,2,2-trifluoroethyl)alanine | 0.031 g, 100% yield | C(#N)C1=C(C=C(C=C1)N([C@@H](C)C(=O)O)CC(F)(F)F)C(F)(F)F | C13H10F6N2O2
